US06962914B2
f) 4-[5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine.
To a solution of 1-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-butyn-1-one (0.61 g, 2.0 mmol) in N,N-dimethylformamide was added N-cyclopentyl guanidine hydrochloride (0.67 g, 4.1 mmol) followed by potassium carbonate (0.57 g, 4.1 mmol). The resulting mixture was heated at 80° C. for 12 hours. Upon cooling to room temperature, water was added. The mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (1:1 ethyl acetate-hexane) to give, after recrystallization from acetonitrile, 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (0.6 g, 74%) as a white solid. 1H NMR (CDCl3): δ 8.54 (broad s, 1H), 8.40 (d, 1H), 8.04 (d, 1H), 7.60 (q, 2H), 7.16 (t, 2H), 6.88 (dd, 1H), 6.28 (d, 1H), 5.22 (d, 1H), 4.40 (m, 1H), 1.4-2.2 (m, 8H); 19F NMR (CDCl3): δ−112.5; MS m/z 408 (M+1).

reactant | 1-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-butyn-1-one | 2.0 mmol, 0.61 g | ClC1=CC=2N(C=C1)N=C(C2C(C#CC)=O)C2=CC=C(C=C2)F | C17H10ClFN2O
reactant | N-cyclopentyl guanidine hydrochloride | 4.1 mmol, 0.67 g | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 4.1 mmol, 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C22H19ClFN5
